US05616620
a) N5 -[Amino(nitroimino)methyl]-N2 -(diphenylacetyl)-N-[2-(4-methoxyphenyl)ethyl]-ornithinamide
Prepared analogously to Example 8a) from (R)-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithine, 4-methoxybenzenethanamine and TBTU in a yield of 47% of theory.

reactant | (R)-N5 -[amino(nitroimino)methyl]-N2 -(diphenylacetyl)-ornithine | NC(NCCC[C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)=N[N+](=O)[O-] | C20H23N5O5
reactant | 4-methoxybenzenethanamine | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | N5 -[Amino(nitroimino)methyl]-N2 -(diphenylacetyl)-N-[2-(4-methoxyphenyl)ethyl]-ornithinamide | yield of 47% | NC(NCCC[C@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)NCCC1=CC=C(C=C1)OC)=N[N+](=O)[O-] | C29H34N6O5
